data/mechanisms/records/IMS9-EQ9.35e.json
{"mechanism_id": "IMS9-EQ9.35e", "species": [{"species_id": "sec_butyl_acetate_molecular_ion_ester_o_localized", "mapped_smiles": "[CH3:1][C:2](=[O:3])[O+:4][CH:5]([CH3:6])[CH2:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "sec_butyl_cation_mz57", "mapped_smiles": "[CH+:5]([CH3:6])[CH2:7][CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "acetyloxy_radical", "mapped_smiles": "[CH3:1][C:2](=[O:3])[O:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["sec_butyl_acetate_molecular_ion_ester_o_localized"]}, {"state_id": "state_mz57", "species_ids": ["sec_butyl_cation_mz57", "acetyloxy_radical"]}], "steps": [{"step_id": "step_inductive_charge_site", "from_state": "state_precursor", "to_state": "state_mz57", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "lone_pair", "atom_maps": [4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_charge_site", "support_type": "textbook_proposed", "locator": {"page": 256, "equation": "9.35", "figure": null, "panel": null, "section": "9.4 Esters (row 5, arrow labelled 'i (C-O)')"}, "confidence": 0.8, "curator_note": "Row 5, and the ONLY channel in the equation where the bond named in the label is also the bond that breaks. The book writes the reaction out in words on this page: 'Charge-site initiation at the saturated oxygen, RCOO-R'+. -> RCOO. + R'+, can give important peaks when R is small and R'+ is stable.' So the O4-C5 bond breaks heterolytically with BOTH electrons going to the oxygen: the acetyloxy fragment leaves as a neutral radical (CH3COO., 59.0133) and the charge migrates to the butyl, giving the sec-butyl cation the page prints as 'C4H9+' and labels 'm/z 57'. One curator-supplied two-electron move; the arrow-check reports the expected soft line on atom 4 (a bonding pair becoming a lone pair, while the odd electron already on that oxygen is untouched). The isomer is forced, not chosen: sec-butyl is the only C4H9 in the substrate. Figure 9.12 shows m/z 57 as a weak peak, and the prose's '1, 3, and 17%' figures for n-, sec- and tert-butyl acetate put this compound's (M - CH3COO)+ at 3% -- quoted, not stored, since that sentence covers three compounds and prints no number on this scheme. ARC COUNT (convention D): ZERO curved arrows anywhere in equation 9.35 -- five reaction arrows, each carrying only a reaction-type label, and no fishhook or two-electron arc on any structure. So EVERY electron move in every record of this equation is curator-supplied, and each is the canonical triple for its reaction type. *** THE PARENTHESISED GROUP IN THE LABEL NAMES THE INITIATING SITE, NOT THE BOND THAT BREAKS. *** This is the one thing an author could get badly wrong here, and the book defines it in its own words on this page: 'Alpha cleavage (Equation 9.35) AT the carbonyl group yields the large m/z 43 ion'; 'This latter peak actually can also be produced by an additional alpha-cleavage reaction INITIATED BY the saturated oxygen atom; a similar cleavage with loss of the largest group produces the significant m/z 87 peak'; and 'Charge-site initiation AT the saturated oxygen, RCOO-R'+. -> RCOO. + R'+'. So alpha(C=O) = initiated at the carbonyl, alpha(C-O) = initiated at the saturated oxygen, i(C-O) = charge-site initiation there. Which bond actually breaks is fixed by the PRINTED PRODUCT in each row, and every one of the five is independently confirmed by mass arithmetic (each ion plus its implied neutral sums to 116.0832) and by the squiggle-marked inset of Figure 9.12 on the facing page, which writes 43, 87 and 101 across the corresponding bonds. SUBSTRATE: sec-butyl acetate, CH3-C(=O)-O-CH(CH3)-C2H5, drawn out with a BRACKET carrying '+.' at its top right and labelled 'm/z 116'. Named on the facing page (PDF 266, printed p255): 'Figure 9.12. Mass spectrum of sec-butyl acetate' and 'The spectrum of sec-butyl acetate (Figure 9.12) illustrates the additional reactions that are possible with such esters.' Same compound as IMS9-EQ9.34, and the atom maps are deliberately the same: 1 = the acetyl methyl, 2 = the acetyl carbon, 3 = the carbonyl oxygen, 4 = the ester (saturated) oxygen, 5 = the methine carbon, 6 = its methyl, 7 = the CH2, 8 = the terminal methyl. *** THE CHARGE AND ODD ELECTRON ARE DRAWN DELOCALISED, SO EACH RECORD LOCALISES THEM WHERE ITS OWN LABEL SAYS. *** The page prints '+.' outside a bracket around the whole structure -- it is NOT on any atom -- so a localization has to be chosen to write a mapped SMILES at all. The reaction-type labels are what choose it: the alpha(C=O) channels put the radical site on the CARBONYL oxygen (map 3) and the alpha(C-O) and i(C-O) channels put it on the SATURATED ester oxygen (map 4). That is disclosed here rather than hidden: two records of this equation therefore store two different localizations of the same drawn molecular ion."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_116", "species_id": "sec_butyl_acetate_molecular_ion_ester_o_localized", "step_id": null, "observed_mz": 116.0832, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_57", "species_id": "sec_butyl_cation_mz57", "step_id": "step_inductive_charge_site", "observed_mz": 57.0699, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
